US03953492
100 Mg. of crude N-(4-amino-3,5-dibromophenylsulfonyl) acetimidoyl chloride is stirred in 10 ml. of methylene chloride with 1 ml. of diethylamine at room temperature overnight. Volumes of water and methylene chloride equal to the volume of the reaction mixture are added, agitated and the layers separated. The organic layer is dried over magnesium sulfate and evaporated to dryness, in vacuo. The residue is taken up in 1 ml. of ethyl acetate and the dropwise addition of petroleum ether affords N,N-diethyl-N'-(4-amino-3,5-dibromophenylsulfonyl) acetamidine.

reactant | N-(4-amino-3,5-dibromophenylsulfonyl) acetimidoyl chloride | NC1=C(C=C(C=C1Br)S(=O)(=O)N=C(C)Cl)Br | C8H7Br2ClN2O2S
reactant | diethylamine | C(C)NCC | C4H11N
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N,N-diethyl-N'-(4-amino-3,5-dibromophenylsulfonyl) acetamidine | C(C)N(C(C)=NS(=O)(=O)C1=CC(=C(C(=C1)Br)N)Br)CC | C12H17Br2N3O2S
